US05281571
5.04 g of 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole was dissolved in anhydrous ether and the solution cooled with an ice bath, then 3.7 ml of a 25 wt. % sodium methoxide in methanol was added. After addition, the ice bath was removed and the mixture stirred for 30 minutes at room temperature. The solution was then extracted 4 times with water, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was chromatographed to give 4.63 g of 4-chloro-3-(2-fluoro-5-methoxy-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole, mp 115°-116° C.

reactant | 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 5.04 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C11H5ClF5N3O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 4-chloro-3-(2-fluoro-5-methoxy-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 4.63 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)OC)[N+](=O)[O-])F | C12H8ClF4N3O3
